US04053600
300 mg of 8,9-Dimethoxy-1,2,4-triazolo-[1,5-c]quinazoline-5-one is refluxed with 5 ml Phospherous oxychloride and a catalytic amount of N,N-dimethylamline for 18 hours. The reaction mixture is then evaporated in vacuo to dryness; the residue taken up in methylene chloride and the methylene chloride layer extracted several times with cold sodium bicarbonate solution, with water, dried and then avaporated in vacuo to dryness. The residue is crystallized from methylene chloride/diethyl ether to give 5-chloro-8,9-dimethoxy-1,2,4-triazolo-[1,5-c]-quinazoline, m.p. 258°-260°.

reactant | 8,9-Dimethoxy-1,2,4-triazolo-[1,5-c]quinazoline-5-one | 300 mg | COC=1C(=CC2=C3N(C(N=C2C1)=O)NC=N3)OC | C11H10N4O3
reactant | oxychloride | 5 ml | O(Cl)Cl | Cl2O
reactant | N,N-dimethylamline | CN(C1=CC=CC=C1)C | C8H11N
product | 5-chloro-8,9-dimethoxy-1,2,4-triazolo-[1,5-c]-quinazoline | ClC1=NC=2C=C(C(=CC2C=2N1N=CN2)OC)OC | C11H9ClN4O2
